US08431563B2
A 150 ml, pressure vessel was charged with 4 bis(pinacolato)diboron (4.72 g, 18.57 mmol, Sigma-Aldrich, St. Louis, Mo.), 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (5.00 g, 15.48 mmol, Bioorg. Med. Chem. Lett. 2002, 12, 3009), potassium acetate (4.56 g, 46.4 mmol), 1,1′ bis(diphenylphosphino)ferrocene]dichloropalladium (II) (0.632 g, 0.774 mmol), and 25 ml, of dioxane. After 3 h at 100° C., the mixture was diluted with EtOAc (100 mL) and filtered. The filtrate was concentrated and purified via column chromatography (0 to 25% EtOAc in hexanes) to give 1,1,1,3,3,3-hexafluoro-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-propanol (3.50 g) as a white solid.

reactant | bis(pinacolato)diboron | 18.57 mmol, 4.72 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 15.48 mmol, 5.00 g | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
reactant | potassium acetate | 46.4 mmol, 4.56 g | C(C)(=O)[O-].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | 1,1′ bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium (II) | 0.774 mmol, 0.632 g | Cl[Pd]Cl
product | 1,1,1,3,3,3-hexafluoro-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-propanol | 3.50 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(F)F | C15H17BF6O3
